US07008957B2
11c) tert-Butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]morpholine-4-carboxylate
4.9 g of tert-butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate were dissolved in 100 ml of THF. 14.9 ml of 15-crown-5 were added, and the mixture was cooled to −78° C. Then 6.8 ml of a 2 M solution of NaHMDS in THF were added dropwise. The mixture was stirred for 10 min and then 8 g of 2-trimethylsilanylethyl 4-bromomethylpiperidine-1-carboxylate were added dropwise. The mixture was allowed to warm to 0° C. over the course of 6 h, and the reaction was then stopped by adding 500 ml of saturated ammonium chloride solution. The aqueous phase was extracted 3 times with 400 ml of ethyl acetate each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | tert-butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate | 4.9 g | C(C=C)[C@@H]1N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C24H27NO4
reactant | 15-crown-5 | 14.9 ml | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-trimethylsilanylethyl 4-bromomethylpiperidine-1-carboxylate | 8 g | BrCC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C12H24BrNO2Si
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-Butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]morpholine-4-carboxylate | C(C=C)[C@]1(N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C36H50N2O6Si
